US06660744B1
3-(4-Phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.5 g, 1.648 mmol), tert-butyl 3-{[(4-methylphenyl)sulfonyl]oxy}-1-pyrrolidinecarboxylate (1.12 g, 3.30 mmol) and cesium carbonate (1.07 g, 3.30 mmol) in N,N-dimethyl formamide (12 mL) was heated at 75° C. overnight. The reaction mixture was poured on to ice-water (100 mL). The aqueous layer was extracted with ethyl acetate. The combined organic layer was washed with water then brine, dried over MgSO4, filtered and evaporated. The residue was purified by flash column chromatography using ethyl acetate as mobile phase to give tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyrrolidinecarboxylate (0.20 g, 28%). 1H NMR (DMSO-d6) δ 1.38 (m, 9H), 2.37 (m 2H), 3.32 (s, 3H), 3.44 (m, 1H), 3.59 (m, 1H), 3.65 (m, 1H), 3.75 (m, 1H), 5.44 (m, 1H), 7.16 (m, 5H), 7.43 (m, 2H), 7.65 (m, 2H), 8.26 (s, 1H).

reactant | 3-(4-Phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 1.648 mmol, 0.5 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C17H13N5O
reactant | tert-butyl 3-{[(4-methylphenyl)sulfonyl]oxy}-1-pyrrolidinecarboxylate | 3.30 mmol, 1.12 g | CC1=CC=C(C=C1)S(=O)(=O)OC1CN(CC1)C(=O)OC(C)(C)C | C16H23NO5S
reactant | cesium carbonate | 3.30 mmol, 1.07 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethyl formamide | 12 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-pyrrolidinecarboxylate | 0.20 g, 28% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(CC2)C(=O)OC(C)(C)C | C26H28N6O3
